US07390791B2
9-(2-Hydroxyethyl)adenine (HEA) (20.0 g, 0.112 mol) was suspended in DMF (125 ml) and heated to 80° C. Magnesium isopropoxide (11.2 g, 0.0784 mol), or alternatively magnesium t-butoxide, was added to the mixture followed by diethyl p-toluenesulfonyloxymethylphosphonate (66.0 g, 0.162 mol) over one hour. The mixture was stirred at 80° C. for 7 hours. 30 ml of volatiles were removed via vacuum distillation and the reaction was recharged with 30 ml of fresh DMF. After cooling to room temperature, bromotrimethylsilane (69.6 g, 0.450 mol) was added and the mixture heated to 80° C. for 6 hours. The reaction was concentrated to yield a thick gum. The gum was dissolved into 360 ml water, extracted with 120 ml dichloromethane, adjusted to pH 3.2 with sodium hydroxide, and the resulting slurry stirred at room temperature overnight. The slurry was cooled to 4° C. for one hour. The solids were isolated by filtration, washed with water (2×), and dried in vacuo at 56° C. to yield 20 g (65.4%) of 9-[2-(phosphonomethoxy)ethyl]adenine (PMEA) as a white solid. Mp:>200° C. dec. 1H NMR (D2O) δ 3.49 (t, 2H); 3.94 (t, 2H); 4.39 (t, 2H); 8.13 (s, 1H); 8.22 (s, 1H).

reactant | 9-(2-Hydroxyethyl)adenine | 0.112 mol, 20.0 g | OCCN1C2=NC=NC(=C2N=C1)N | C7H9N5O
reactant | Magnesium isopropoxide | 0.0784 mol, 11.2 g | CC([O-])C.[Mg+2].CC([O-])C
reactant | magnesium t-butoxide | CC(C)([O-])C.[Mg+2].CC(C)([O-])C
reactant | diethyl p-toluenesulfonyloxymethylphosphonate | 0.162 mol, 66.0 g | C1(=CC=C(C=C1)S(=O)(=O)OCP(OCC)(OCC)=O)C | C12H19O6PS
reactant | bromotrimethylsilane | 0.450 mol, 69.6 g | Br[Si](C)(C)C | C3H9BrSi
solvent | DMF | 125 ml | CN(C)C=O | C3H7NO
solvent | water | 360 ml | O | H2O
product | 9-[2-(phosphonomethoxy)ethyl]adenine | 20 g, 65.4% | P(=O)(O)(O)COCCN1C2=NC=NC(=C2N=C1)N | C8H12N5O4P
